US06034275
1.0 g of 4-bromo-phenyl)-(4-methoxy-2-methylsulphanyl-phenyl)-methanone (Ex. C) are suspended in 6 ml of acetic acid and 3.5 ml of 62% HBr and stirred at 125° C. overnight. The suspension is added to sat. NaHCO3 solution, the phases are separated and the inorganic phase is extracted with ethyl acetate. The organic phases are washed with sat. NaHCO3 solution and with saturated sodium chloride solution and dried. 920 mg of (4-bromo-phenyl)-(4-hydroxy-2-methylsulphanyl-phenyl)-methanone are obtained as brown crystals.

reactant | (4-methoxy-2-methylsulphanyl-phenyl)-methanone | COC1=CC(=C(C=C1)C=O)SC | C9H10O2S
reactant | HBr | 3.5 ml | Br | BrH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | (4-bromo-phenyl)-(4-hydroxy-2-methylsulphanyl-phenyl)-methanone | 920 mg | BrC1=CC=C(C=C1)C(=O)C1=C(C=C(C=C1)O)SC | C14H11BrO2S
